US04760165
U.S. Pat. No. 4,126,755 and the corresponding German Offenlegungsschrift P2244662.4 disclose a method of producing dimethyl terephthalate from high-boiling tarry residues resulting from the combined oxidation of p-xylene and methyl p-toluate with air, esterification of the resulting acids with methanol and after-treatment of the esterification reaction product, which comprises treating the high-boiling residues with methanol at a temperature above 250° C., and thereafter separating the resulting dimethyl terephthalate in accordance with conventional separation techniques.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | p-xylene | CC=1C=CC(=CC1)C | C8H10
solvent | methanol | CO | CH4O
product | methyl p-toluate | C1(=CC=C(C=C1)C(=O)OC)C | C9H10O2
